US05665748
A mixture of 5-[4-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]butylidene]-2,4-oxazolidinedione (0.38 g), palladium-carbon (10%, 0.2 g) and tetrahydrofuran (40 ml) was subjected to catalytic hydrogenation at room temperature and 3 atom. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The concentrate was purified by means of a silica gel column chromatography. From the fractions eluted with chloroform-methanol (100:3) was obtained 5-[4-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]butyl]-2,4-oxazolidinedione (0.25 g, 65%). This product was recrystallized from dichloromethane-methanol to give colorless prisms,

reactant | 5-[4-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]butylidene]-2,4-oxazolidinedione | 0.38 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)CCCC=C1C(NC(O1)=O)=O | C25H24N2O5
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 5-[4-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]butyl]-2,4-oxazolidinedione | 0.25 g, 65% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)CCCCC1C(NC(O1)=O)=O | C25H26N2O5
